US04389416
Ethyl 2,3-dichloro-4-(4'-nitrophenoxy)phenoxyacetate
A mixture of 2,3-dichloro-4-(p-nitrophenoxy)phenol (11.5 g., 0.038 mole), ethyl bromoacetate (9.51 g., 0.057 mole) and pulverized potassium carbonate (7.9 g., 0.057 mole) in 100 ml. of 2-butanone was heated at reflux for 2 hours. The reaction mixture was then filtered and the filtrate concentrated under reduced pressure. The residue was taken into CH2Cl2 and the resulting solution was washed with aqueous NaCl and dried over MgSO4. Evaporation of the solvent was followed by trituration with hexane to furnish the solid product. Recrystallization from cyclohexane gave 12.5 g. of solid, m.p. 90°-91°.

reactant | 2,3-dichloro-4-(p-nitrophenoxy)phenol | 0.038 mole, 11.5 g | ClC1=C(C=CC(=C1Cl)OC1=CC=C(C=C1)[N+](=O)[O-])O | C12H7Cl2NO4
reactant | ethyl bromoacetate | 0.057 mole, 9.51 g | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 0.057 mole, 7.9 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | Ethyl 2,3-dichloro-4-(4'-nitrophenoxy)phenoxyacetate | ClC1=C(OCC(=O)OCC)C=CC(=C1Cl)OC1=CC=C(C=C1)[N+](=O)[O-] | C16H13Cl2NO6
